US06277858B1
2-(1-n-butyl-1-methoxymethyleneamino)thiophene-3-carboxylic-acid propylamide
In a destillation apparatus, a mixture of 1.84 g of 2-aminothiophene-3-carboxylic-acid propylamide and 2.43 g of trimethyl orthovalerate is heated for 2 hours at 130° C. Methanol, which arises during the reaction is directly distilled out of the reaction flask. After cooling, the crude product is purified by column chromatography (eluant:hexane/ethylacetate=1:2). Yield:1.9 g pure 2-(1-n-butyl-1-methoxymethyleneamino)thiophene-3-carboxylic-acid propylamide; m.p. 68-70° C.

reactant | 2-aminothiophene-3-carboxylic-acid propylamide | 1.84 g | C(CC)NC(=O)C1=C(SC=C1)N | C8H12N2OS
reactant | trimethyl orthovalerate | 2.43 g | C(CCCC)(OC)(OC)OC | C8H18O3
solvent | Methanol | CO | CH4O
product | 2-(1-n-butyl-1-methoxymethyleneamino)thiophene-3-carboxylic-acid propylamide | C(CC)NC(=O)C1=C(SC=C1)N=C(OC)CCCC | C14H22N2O2S
